US08557983B2
4-Fluoro-2-(6-nitro-pyridin-3-yloxy)-benzoic acid methyl ester
Methyl 4-fluoro-2-hydroxybenzoate (3.00 g), 5-chloro-2-nitropyridine (3.08 g), and potassium carbonate (4.87 g) were added to dimethyl sulfoxide (50 mL), heated to 110° C. for one hour, cooled, added to water, and extracted with ethyl ether. The ether was washed with brine and dried on anhydrous sodium sulfate. The solution was filtered and concentrated and purified by flash column chromatography on silica gel using 10% ethyl acetate in hexanes increasing to 20% ethyl acetate in hexanes and increasing again to 30% ethyl acetate in hexanes.

reactant | Methyl 4-fluoro-2-hydroxybenzoate | 3.00 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 5-chloro-2-nitropyridine | 3.08 g | ClC=1C=CC(=NC1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 4.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Fluoro-2-(6-nitro-pyridin-3-yloxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)F)OC=1C=NC(=CC1)[N+](=O)[O-])=O | C13H9FN2O5
